US09062028B2
Step C. (5-Bromo-3,4-dihydroquinolin-1(2H)-yl)(1-(hydroxymethyl)cyclopropyl)methanone
To a solution of 1-(5-bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylic acid (0.58 g, 1.789 mmol) in CH2Cl2 (17 mL) at 0° C. was added N,N-dimethylformamide (2.78 μL, 0.036 mmol) and oxalyl chloride (0.187 mL, 2.147 mmol) slowly. The reaction mixture was stirred at 0° C. for 60 min, and then at room temperature for 16 h. The solvent was removed under reduced pressure and the crude acyl chloride (0.610 g, 1.78 mmol) was re-dissolved in THF (17.8 mL) and cooled to 0° C. Lithium tri-tert-butoxyaluminum hydride (7.12 mL, 7.12 mmol) was added, and the reaction mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched with saturated NH4Cl (10 mL) and then stirred at room temperature for 30 min. After this time, the mixture was extracted with EtOAc (2×40 mL). The combined organic layer was dried, filtered and concentrated. The resulting residue was purified by flash chromatography (0 to 100% ethyl acetate:hexanes) to afford the title compound (0.45 g, 82% yield) as an oil. LCMS, [M+H]+=310.0. 1H NMR (400 MHz, CDCl3) δ 7.47 (d, J=8.7 Hz, 1H), 7.35 (d, J=8.0 Hz, 1H), 7.01 (dd, J=8.7, 8.0 Hz, 1H), 3.88-3.81 (m, 2H), 3.56 (d, J=5.8 Hz, 2H), 2.81 (t, J=6.9 Hz, 2H), 2.04-1.93 (m, 3H), 1.06 (dd, J=6.7, 4.9 Hz, 2H), 0.81 (dd, J=6.7, 4.9 Hz, 2H).

reactant | 1-(5-bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylic acid | 1.789 mmol, 0.58 g | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)C(=O)O | C14H14BrNO3
reactant | oxalyl chloride | 2.147 mmol, 0.187 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Lithium tri-tert-butoxyaluminum hydride | 7.12 mmol, 7.12 mL | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 17.8 mL | C1CCOC1 | C4H8O
catalyst | N,N-dimethylformamide | 0.036 mmol, 2.78 μL | CN(C=O)C | C3H7NO
product | (5-Bromo-3,4-dihydroquinolin-1(2H)-yl)(1-(hydroxymethyl)cyclopropyl)methanone | 0.45 g, 82% yield | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)CO | C14H16BrNO2
